US05719168
a) Preparation of α-(4-pyridyl)benzyl chloride hydrochloride
To a solution of 27.75 g (0.15 mol) of (4-pyridyl)benzyl alcohol and 200 ml of chloroform is run in dropwise, at room temperature, a solution of 15.25 ml (0.2 mol) of SOCl2 and 50 ml of CH2Cl2.

reactant | (4-pyridyl)benzyl alcohol | 0.15 mol, 27.75 g | N1=CC=C(C=C1)C(C1=CC=CC=C1)O | C12H11NO
reactant | chloroform | 200 ml | C(Cl)(Cl)Cl | CHCl3
reactant | SOCl2 | 0.2 mol, 15.25 ml | O=S(Cl)Cl | Cl2OS
solvent | CH2Cl2 | 50 ml | C(Cl)Cl | CH2Cl2
product | α-(4-pyridyl)benzyl chloride hydrochloride | Cl.N1=CC=C(C=C1)C(C1=CC=CC=C1)Cl | InChI=1S/C12H10ClN.ClH/c13-12(10-4-2-1-3-5-10)11-6-8-14-9-7-11;/h1-9,12H;1H
